US05352792
To a suspension of 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride (1.49 g: 3 mMol.) and (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoic acid (1.03 g: 3.45 mMol.) in dichloromethane (30 ml) is added at -30° C. N-methylmorpholine (1.1 ml : 10 mMol.) and, after 2 minutes, phenyl dichlorophosphate (0.49 ml: 3.27 mMol.), and the mixture is stirred at the same temperature for 1 hour and 20 minutes. The reaction mixture is mixed with 1N-hydrochloric acid (6 ml) and extracted with ethyl acetate. The extract is washed with water, aqueous 5% sodium hydrogen carbonate, and brine, dried over sodium sulfate, and concentrated. The residue (2.6 g) is dissolved in hot isopropanol (100 ml), cooled, and the separating pale yellow powder is collected by filtration to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (2.01 g). Yield: 91%.

reactant | 7β-amino-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | 3 mMol, 1.49 g | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OS(=O)(=O)C
reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoic acid | 3.45 mMol, 1.03 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=C/CC | C13H18N2O4S
reactant | N-methylmorpholine | 10 mMol, 1.1 ml | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 3.27 mMol, 0.49 ml | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 2.01 g, Yield: 91% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C34H36N4O9S3
